US07416835B2
In a 2-liter eggplant type flask, 62.8 g of N-phenyl-iminodiacetic acid was charged and dissolved in 500 mL of toluene under a nitrogen gas stream, to which was then added 32.0 g of acetic anhydride. The mixture was refluxed under heating and stirred. One hour thereafter, the reaction mixture was cooled to room temperature, to which was then 3 L of hexane with stirring to undergo deposition. A reaction product was filtered to obtain 52.0 g of N-phenyliminodiacetic anhydride.

reactant | N-phenyl-iminodiacetic acid | 62.8 g | C1(=CC=CC=C1)N(CC(=O)O)CC(=O)O | C10H11NO4
reactant | acetic anhydride | 32.0 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | hexane | 3 L | CCCCCC | C6H14
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | N-phenyliminodiacetic anhydride | 52.0 g | C1(=CC=CC=C1)N1CC(=O)OC(C1)=O | C10H9NO3
